US08030334B2
To a solution of 2-[5-(methanesulfonyl-(tert-butoxycarbonyl)-amino-methyl)-pyridin-3-yl]-1-methyl-indole (350 mg, 0.842 mmol) in dichloromethane (10 mL) is added chlorosulfonyl isocyanate (0.358 g, 2.53 mmol). The mixture is stirred at ambient temperature for 20 min, whereupon anhydrous DMF (2 mL) is added. After 1 h, the mixture is concentrated to a volume of 3 mL, and filtered. Purification by RP HPLC affords 2-[5-(methanesulfonyl-(tert-butoxycarbonyl)-amino-methyl)-pyridin-3-yl]-1-methyl-3-cyano-indole. MS (ESI) m/z 441.1 (M+H)+.

reactant | 2-[5-(methanesulfonyl-(tert-butoxycarbonyl)-amino-methyl)-pyridin-3-yl]-1-methyl-indole | 0.842 mmol, 350 mg | CS(=O)(=O)C(C=1C=C(C=NC1)C=1N(C2=CC=CC=C2C1)C)(N)C(=O)OC(C)(C)C | C21H25N3O4S
reactant | chlorosulfonyl isocyanate | 2.53 mmol, 0.358 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-[5-(methanesulfonyl-(tert-butoxycarbonyl)-amino-methyl)-pyridin-3-yl]-1-methyl-3-cyano-indole | CS(=O)(=O)C(C=1C=C(C=NC1)C=1N(C2=CC=CC=C2C1C#N)C)(N)C(=O)OC(C)(C)C | C22H24N4O4S
